US04798620
6-amino-4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one (0.5 g), tetrahydrophthalic anhydride (0.38 g) and acetic acid (10 ml) were mixed with each other, then the mixture was refluxed under heating for 3 hours. After the liquor was allowed to cool, it was added to water (40 ml), and separating crystals were collected by filtration, and then the crystals were dissolved in dichloromethane (30 ml). The dichloromethane solution was washed with a saturated solution of sodium bicarbonate, and water, in that order, and then dehydrated with anhydrous sodium sulfate, and subsequently concentrated. Separated crystals were washed with a small amount of ether to give the desired 2-[4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on 6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.59 g). mp. 227°-229° C.

reactant | 6-amino-4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-one | 0.5 g | NC=1C(=CC2=C(N(C(CO2)=O)CC#N)C1)F | C10H8FN3O2
reactant | tetrahydrophthalic anhydride | 0.38 g | C1(C2C(C(=O)O1)CCC=C2)=O | C8H8O3
reactant | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
solvent | water | 40 ml | O | H2O
product | 2-[4-cyanomethyl-7-fluoro-2H-1,4-benzoxazin-3(4H)-on 6-yl]-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.59 g | C(#N)CN1C(COC2=C1C=C(C(=C2)F)N2C(C=1CCCCC1C2=O)=O)=O | C18H14FN3O4
